US05849911
40e) 1-[4-(Pyrazin-2-yl)-phenyl]-4(S)-hydroxy-2-(tert-butoxycarbonyl)amino-5(S)-amino-6-phenyl-2-azahexane
11.75 g (21 mmol) of 1-[4-(pyrazin-2-yl)-phenyl]-4(S)-hydroxy-2-(tert-butoxycarbonyl)amino-5(S)-(trifluoroacetyl)amino-6-phenyl-2-azahexane are suspended in 500 ml of methanol and, at 60° C., 105 ml of a 1M K2CO3 solution in water are added. The mixture is stirred at 75° C. for about 3 hours; the methanol is evaporated off and the residue is extracted with ethyl acetate. The organic phase is washed once each with water and brine and concentrated. The title compound is obtained in the form of orange-brown crystals, which can be recrystallised from ethyl acetate/petroleum ether. M.p.: 146°-148° C. TLC: Rt= 0.08 (methylene chloride/methanol 10:1). HPLC20-100 : tRet =11.23.

reactant | 1-[4-(pyrazin-2-yl)-phenyl]-4(S)-hydroxy-2-(tert-butoxycarbonyl)amino-5(S)-(trifluoroacetyl)amino-6-phenyl-2-azahexane | 21 mmol, 11.75 g | N1=C(C=NC=C1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC(C(F)(F)F)=O)O)NC(=O)OC(C)(C)C | C28H32F3N5O4
reactant | K2CO3 | 1M | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 500 ml | CO | CH4O
solvent | water | O | H2O
product | 1-[4-(Pyrazin-2-yl)-phenyl]-4(S)-hydroxy-2-(tert-butoxycarbonyl)amino-5(S)-amino-6-phenyl-2-azahexane | N1=C(C=NC=C1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)N)O)NC(=O)OC(C)(C)C | C26H33N5O3
